US05698494
Ethyl N-[4-chloro-3-(2-chloro-2-ethoxycarbonyletheny1)-phenyl]-3-trifluoromethylglutaramidate
0.13 g (34 mmol) of sodium borohydride was added in portions at room temperature to a solution of 4.2 g (10 mmol) of N-[4-chloro-3-(2-chloro-2-ethoxycarbonylethenyl)phenyl]-3-trifluoromethylglutarimide in 100 ml of ethanol. After stirring for 3 hours the reaction mixture was added to 100 ml of water, after which the aqueous phase was extracted twice with dichloromethane. The combined org. phases were dried over sodium sulfate and concentrated. Finally, the residue was purified by triturating with petroleum ether. Yield: 2 g (42%); m.p.: 115°-117° C.

reactant | sodium borohydride | 34 mmol, 0.13 g | [BH4-].[Na+]
reactant | N-[4-chloro-3-(2-chloro-2-ethoxycarbonylethenyl)phenyl]-3-trifluoromethylglutarimide | 10 mmol, 4.2 g | ClC1=C(C=C(C=C1)N1C(CC(CC1=O)C(F)(F)F)=O)C=C(C(=O)OCC)Cl | C17H14Cl2F3NO4
reactant | water | 100 ml | O | H2O
reactant | ethanol | 100 ml | C(C)O | C2H6O
product | Ethyl N-[4-chloro-3-(2-chloro-2-ethoxycarbonyletheny1)-phenyl]-3-trifluoromethylglutaramidate | ClC1=C(C=C(C=C1)NC(CC(CC(=O)OCC)C(F)(F)F)=O)C=C(C(=O)OCC)Cl | C19H20Cl2F3NO5
